US07741320B2
Step C: 4-cyclopropyl-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide
In a round-bottom flask, a mixture of 2-cyclopropylamino-5-nitrobenzenesulphonamide (5 g), originating from the Step above, and ethyl orthoformate (50 mL) is heated in the open state at 130° C. for 3 hours. The suspension obtained is cooled on an ice bath and the insoluble material is collected by filtration, washed with ether and dried.

reactant | 2-cyclopropylamino-5-nitrobenzenesulphonamide | 5 g | C1(CC1)NC1=C(C=C(C=C1)[N+](=O)[O-])S(=O)(=O)N | C9H11N3O4S
reactant | ethyl orthoformate | 50 mL | C(OCC)([O-])[O-]
product | 4-cyclopropyl-7-nitro-4H-1,2,4-benzothiadiazine 1,1-dioxide | C1(CC1)N1C=NS(C2=C1C=CC(=C2)[N+](=O)[O-])(=O)=O | C10H9N3O4S
